US07858646B2
Synthesis of 3-(4-cyano-pyridin-2-ylsulfanyl)-benzoic acid
Add sodium hydride (60% dispersion in mineral oil, 635 mg, 15.88 mmol) to a solution of 3-mercapto-benzoic acid (1.11 g, 7.22 mmol) in dimethylformamide (50 mL) chilled to 0° C. and stir. After 10 minutes add 2-chloro-isonicotinonitrile (1.00 g, 7.22 mmol). Warm gradually to ambient temperature. After 18 hours, add 1N aqueous hydrochloric acid (200 mL). Filter the resulting precipitate, washing with water and hexanes to yield the title compound as a tan solid (920 mg, 50%): 1H NMR (DMSO-d6) δ 7.62-7.66 (m, 3H), 7.84 (d, 1H), 8.03-8.08 (m, 2H), 8.62 (d, 1H), 13.26 (bs, 1H).

reactant | sodium hydride | 15.88 mmol, 635 mg | [H-].[Na+]
reactant | 3-mercapto-benzoic acid | 7.22 mmol, 1.11 g | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | 2-chloro-isonicotinonitrile | 7.22 mmol, 1.00 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-(4-cyano-pyridin-2-ylsulfanyl)-benzoic acid | 920 mg, 50% | C(#N)C1=CC(=NC=C1)SC=1C=C(C(=O)O)C=CC1 | C13H8N2O2S
